US06384051B1
6.7-Dimethoxy-4-(3-methylsulfanyl-phenylamino)-quinoline-3-carbonitrile
Using an analogous procedure to that described in Example 286, 248.7 mg (1 mmol) of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile in 15 mL of 2-ethoxyethanol and in the presence of 115.6 mg (1 mmol) of pyridine hydrochloride was reacted with 167.1 mg (1.2 mmol) of 3-(methylthio)aniline to give 134.1 mg (38.2%) of the product as an off white solid, m.p.>250° C., mass (electrospray, m/e): M+H 351.9.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | 1 mmol, 248.7 mg | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | pyridine hydrochloride | 1 mmol, 115.6 mg | Cl.N1=CC=CC=C1
reactant | 3-(methylthio)aniline | 1.2 mmol, 167.1 mg | CSC=1C=C(N)C=CC1 | C7H9NS
solvent | 2-ethoxyethanol | 15 mL | C(C)OCCO | C4H10O2
product | 6.7-Dimethoxy-4-(3-methylsulfanyl-phenylamino)-quinoline-3-carbonitrile | 134.1 mg, 38.2% | COC=1C=C2C(=C(C=NC2=CC1OC)C#N)NC1=CC(=CC=C1)SC | C19H17N3O2S
